US04579862
A solution of diisopropylamine (15 g, 0.148 mol) in dry tetrahydrofuran (100 ml) at -78° C. was treated dropwise with a solution of butyl lithium in hexane (100 ml of a 1.6M solution 0.16 mol) under an atmosphere of dry argon. The solution was allowed to warm up to 0° C. over 2 hours, cooled back to -78° C. and treated with a solution of 4-(4-methoxyphenyl)butyric acid (14.1 g, 0.0726 mol) in dry tetrahydrofuran (50 ml). The solution was allowed to warm up to -20° C., cooled back to -78° C. and treated dropwise over 2 hours with 3-(4-methoxyphenyl)propyl chloride (13.5 g, 0.0731 mol). The solution was allowed to warm up to room temperature, poured into excess 2N hydrochloric acid and extracted with chloroform. The combined extracts were dried (MgSO4) and the solvent was evaporated off under reduced pressure to give the crude product, which was further purified by column chromatography (silica gel, 50% chloroform in hexane) to give 5-(4-methoxyphenyl)-2-[2-(4-methoxyphenyl)ethyl]pentanoic acid as a colourless crystalline solid, m.p. 91°-94° C. (from toluene).

reactant | diisopropylamine | 0.148 mol, 15 g | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | 4-(4-methoxyphenyl)butyric acid | 0.0726 mol, 14.1 g | COC1=CC=C(C=C1)CCCC(=O)O | C11H14O3
reactant | 3-(4-methoxyphenyl)propyl chloride | 0.0731 mol, 13.5 g | COC1=CC=C(C=C1)CCCCl | C10H13ClO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-(4-methoxyphenyl)-2-[2-(4-methoxyphenyl)ethyl]pentanoic acid | COC1=CC=C(C=C1)CCCC(C(=O)O)CCC1=CC=C(C=C1)OC | C21H26O4
